US07429565B2
2-[4-(Hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester
A mixture of 2-[4-(dimethoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester (184 mg, 0.270 mmol) in tert-butylamine (2.8 mL, 27 mmol) was heated at 60° C. for 24 hours. The solution was allowed to cool to room temperature and concentrated. The residue was purified by silica gel column chromatography using MeOH/CH2Cl2 (0-30%) to provide 75 mg of the product as a clear oil. 1H NMR (300 MHz, CDCl3) δ 0.01 (s, 9H), 0.04 (s, 9H), 0.89 (appt t, 2H, J=9 Hz), 1.23 (appt t, 2H, J=9 Hz), 1.77 (s, 3H), 2.01-2.31 (m, 4H), 2.17 (s, 3H), 2.36 (d, 1H, J=22 Hz), 2.38 (d, 1H, J=22 Hz), 2.52 (septet, 1H, J=9 Hz), 3.39 (d, 2H, J=7 Hz), 3.51 (d, 3H, J=11 Hz), 4.01-4.08 (m, 2H), 4.30 (dd, 2H, J=8, 9 Hz), 5.11 (s, 2H), 5.19 (br t, 1H, J=6 Hz), 5.33-5.56 (m, 2H), 8.49 (br s, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 22.1 ppm; MS (m/z) 667.4 [M+Na]+.

reactant | 2-[4-(dimethoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 0.270 mmol, 184 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)OC)=O)(C)C | C33H55O9PSi2
reactant | tert-butylamine | 27 mmol, 2.8 mL | C(C)(C)(C)N | C4H11N
product | 2-[4-(Hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 75 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)O)=O)(C)C | C32H53O9PSi2
